US07759373B2
To a solution of ethyl 2-(4-fluorophenyl)oxazole-4-carboxylate (7.44 g) in chloroform (100 ml) was added dropwise bromine (8.1 ml) at room temperature, and the resulting mixture was stirred at room temperature for 30 minutes and then refluxed for 8 hours. After cooling the reaction mixture, 10% aqueous sodium thiosulfate solution was added to the mixture and the mixture was extracted with chloroform. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent: ethyl acetate:n-hexane=1:9) to obtain ethyl 5-bromo-2-(4-fluorophenyl)-oxazol-4-carboxylate (9.21 g) as pale yellowish powder.

reactant | ethyl 2-(4-fluorophenyl)oxazole-4-carboxylate | 7.44 g | FC1=CC=C(C=C1)C=1OC=C(N1)C(=O)OCC | C12H10FNO3
reactant | bromine | 8.1 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-bromo-2-(4-fluorophenyl)-oxazol-4-carboxylate | 9.21 g | BrC1=C(N=C(O1)C1=CC=C(C=C1)F)C(=O)OCC | C12H9BrFNO3
